US05614615
NeuAcα2→3Galβ1→4(Fucα1→3)GlcNAcβ1,3Galβ--;
NeuAcα2→3Galβ1→4(Fucα1→3)GlcNAc=Slex.

reactant | NeuAcα2→3Galβ1→4(Fucα1→3)GlcNAc | OC(=O)[C@@]1(O[C@@H]2[C@H]([C@H](O[C@H]3[C@@H]([C@H](C(O)O[C@@H]3CO)NC(=O)C)O[C@H]3[C@@H](O)[C@H](O)[C@H](O)[C@@H](O3)C)O[C@@H]([C@@H]2O)CO)O)C[C@H](O)[C@@H](NC(=O)C)[C@@H](O1)[C@H](O)[C@H](O)CO | C31H52N2O23
reactant | Slex | C[C@H]1[C@H]([C@H]([C@@H]([C@@H](O1)O[C@H]([C@H](C=O)NC(=O)C)[C@@H]([C@@H](CO)O)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O)O[C@@]3(C[C@@H]([C@H]([C@@H](O3)[C@@H]([C@@H](CO)O)O)NC(=O)C)O)C(=O)O)O)O)O)O | C31H52N2O23
product | NeuAcα2→3Galβ1→4(Fucα1→3)GlcNAcβ1,3Galβ- | OC(=O)[C@@]1(O[C@@H]2[C@H]([C@H](O[C@H]3[C@@H]([C@H]([C@H](O[C@@H]4[C@H]([C@H](O)O[C@@H]([C@@H]4O)CO)O)O[C@@H]3CO)NC(=O)C)O[C@H]3[C@@H](O)[C@H](O)[C@H](O)[C@@H](O3)C)O[C@@H]([C@@H]2O)CO)O)C[C@H](O)[C@@H](NC(=O)C)[C@@H](O1)[C@H](O)[C@H](O)CO | C37H62N2O28
